US04605653
Preparation of 1-(hydroxymethyl)-4-(iminophenyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline
To a solution of 4.51 g (0.01 mole) of 1-(hydroxymethyl)-2-(methylthio)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline iodide in ethanol 9.3 g (0.10 mole) of aniline are added, and the reaction mixture is boiled for 3 hours. Upon cooling the product separates from the mixture in crystalline form.

reactant | 1-(hydroxymethyl)-2-(methylthio)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline iodide | 0.01 mole, 4.51 g | [I-].OCC1C(OCN2C1C1=CC(=C(C=C1CC2)OC)OC)SC
reactant | ethanol | 0.10 mole, 9.3 g | C(C)O | C2H6O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 1-(hydroxymethyl)-4-(iminophenyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline | OCC1COC(N2C1C1=CC(=C(C=C1CC2)OC)OC)C2C(C=CC=C2)=N | C21H26N2O4
